US05366982
ethyl 6-{[4-(4-aminophenyl)-6-phenyl-2-pyridyl]oxy}hexanoate
The yellow suspension obtained by mixing ethyl 6-{[4-(4-nitrophenyl)-6-phenyl-2-pyridyl]oxy}hexanoate (5.3 g), stannous chloride (11.6 g) in ethanol (100 cc) is heated at 70° C. for 2 hours and 30 minutes under inert atmosphere. The clear brown solution thus obtained is concentrated to dryness under reduced pressure. The residue obtained is taken up in distilled water (100 cc). The pH of this aqueous phase is brought to 6 by addition of sodium hydrogenocarbonate. The solution is then extracted with ethyl acetate (3×200 cc). The organic phases are combined, washed with distilled water (3×50 cc), dried over sodium sulphate and concentrated to dryness at 40° C. under reduced pressure. The residue obtained is purified by chromatography under pressure on silica gel (30-60 mm; eluent: n-hexane-ethyl acetate 7-3). (yellowish oil).

reactant | ethyl 6-{[4-(4-nitrophenyl)-6-phenyl-2-pyridyl]oxy}hexanoate | 5.3 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)OCCCCCC(=O)OCC | C25H26N2O5
reactant | sodium | [Na] | Na
solvent | ethanol | 100 cc | C(C)O | C2H6O
solvent | water | 100 cc | O | H2O
product | ethyl 6-{[4-(4-aminophenyl)-6-phenyl-2-pyridyl]oxy}hexanoate | NC1=CC=C(C=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)OCCCCCC(=O)OCC | C25H28N2O3
